US04703073
N,N-Bis(p-tert-butylbenzyl)hydroxylamine
To a suspension of 23.0 g of anhydrous sodium carbonate in 75 ml of dry dimethylformamide is added 3.78 g of hydroxylamine hydrochloride followed by 24.72 g of p-tert-butylbenzyl bromide. After stirring at room temperature, the insoluble inorganic residue is removed by filtration and the mixture is concentrated under reduced pressure. Preparative liquid chromatography on the crude product affords a white solid, mp 108°-110° C.

reactant | sodium carbonate | 23.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 3.78 g | Cl.NO
reactant | p-tert-butylbenzyl bromide | 24.72 g | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | N,N-Bis(p-tert-butylbenzyl)hydroxylamine | C(C)(C)(C)C1=CC=C(CN(O)CC2=CC=C(C=C2)C(C)(C)C)C=C1 | C22H31NO
